US08754107B2
3,4-Dichloro-N-(2-(3-(4-(2-methoxyphenyl)piperidin-1-yl)pyrrolidin-1-yl)-2-oxoethyl)benzamide (0.035 g, 0.071 mmol) and boron tribromide (1M solution in DCM, 0.357 mL, 0.357 mmol) was stirred at about 0° C. for about 1 hour. The precipitate was collected by filtration, rinsed with DCM. The residue was purified by preparative RP-HPLC (15% acetonitrile/0.05M aqueous ammonium acetate buffered to pH 4.5 for 3 min then 15% to 60% acetonitrile/0.05M aqueous ammonium acetate buffered to pH 4.5 over 6 min at 25 mL/min; APCI positive mode detection; Xterra prep. MS C18 19×50 mm column) to yield 3,4-dichloro-N-(2-(3-(4-(2-hydroxyphenyl)piperidin-1-yl)pyrrolidin-1-yl)-2-oxoethyl)benzamide (0.029 g, 0.061 mmol). RP-HPLC (Table 1, Method a) Rt 1.91 min; m/z: (M+H)+ 476.

reactant | 3,4-Dichloro-N-(2-(3-(4-(2-methoxyphenyl)piperidin-1-yl)pyrrolidin-1-yl)-2-oxoethyl)benzamide | 0.071 mmol, 0.035 g | ClC=1C=C(C(=O)NCC(=O)N2CC(CC2)N2CCC(CC2)C2=C(C=CC=C2)OC)C=CC1Cl | C25H29Cl2N3O3
reactant | boron tribromide | 0.357 mmol, 1M, 0.357 mL | B(Br)(Br)Br | BBr3
product | 3,4-dichloro-N-(2-(3-(4-(2-hydroxyphenyl)piperidin-1-yl)pyrrolidin-1-yl)-2-oxoethyl)benzamide | 0.061 mmol, 0.029 g | ClC=1C=C(C(=O)NCC(=O)N2CC(CC2)N2CCC(CC2)C2=C(C=CC=C2)O)C=CC1Cl | C24H27Cl2N3O3
